US07622583B2
A mixture of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride (50mg, 0.11 mmol), cis-2,6-dimethylmorpholine (50 mg, 0.40 mmol) and di-isopropylethylamine (DIEA, 0.07 mL, 0.40 mmol) in CH2Cl2 (1.5 mL) was stirred at room temperature overnight. The mixture was concentrated to provide 4-chloro-N[5-chloro-2-(cis-2,6-dimethyl-morpholine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide, which was directly used in the next step without any purification.

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride | 0.11 mmol, 50mg | ClC=1C=C(C(=NC1)C(=O)Cl)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H10Cl3F3N2O4S
reactant | cis-2,6-dimethylmorpholine | 0.40 mmol, 50 mg | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | di-isopropylethylamine | 0.40 mmol, 0.07 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N[5-chloro-2-(cis-2,6-dimethyl-morpholine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)N1C[C@H](O[C@H](C1)C)C)C(F)(F)F | C21H22Cl2F3N3O5S
